US07250442B2
3-Hydroxy-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Using a method similar to Preparation 18 with isatin (1.77 g, 12 mmol) a 0.5M solution of 3,5-dimethyl-4-methoxyphenylmagnesium bromide in THF (50 mL, 25 mmol) gives 2.70 g (84%) of a yellow solid. MS (ES): m/z=266 (M+1−H2O), 282 (M−1); 1H NMR(DMSO-d6): δ10.35 (s, 1H), 7.24 (dt, J=1.3 Hz, J=7.6 Hz, 1H), 7.10 (d, J=6.4 Hz, 1H), 6.98 (dd, J=0.9 Hz, J=7.5 Hz, 1H), 6.90 (m, 3H), 6.50 (s, 1H), 3.62 (s, 3H), 2.17 (s, 6H).

reactant | isatin | 12 mmol, 1.77 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 3,5-dimethyl-4-methoxyphenylmagnesium bromide | CC=1C=C(C=C(C1OC)C)[Mg]Br
reactant | THF | 25 mmol, 50 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 2.70 g, 84% | OC1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)OC)C | C17H17NO3
